### PR TITLE
[Merged by Bors] - feat(Combinatorics): generating function for partitions

### PR DESCRIPTION
**Pull request by wwylele**
This is the start of a series of PR aiming to prove two theorems related to partition:
 - [Glaisher's theorem](https://en.wikipedia.org/wiki/Glaisher%27s_theorem), which is a generalization of the existing [Euler's Partition theorem](https://github.com/leanprover-community/mathlib4/blob/master/Archive/Wiedijk100Theorems/Partition.lean). The proof will use the infinite generating function, upgrading the current proof that uses finite ones, and resolving this [TODO](https://github.com/leanprover-community/mathlib4/blob/master/Archive/Wiedijk100Theorems/Partition.lean#L66)
 - [Pentagonal number theorem](https://en.wikipedia.org/wiki/Pentagonal_number_theorem) and the recurrence relation on the partition function.
 
I created a new file `Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean` to avoid importing PowerSeries stuff directly into the definition file, and along the way I moved the existing `Mathlib/Combinatorics/Enumerative/Partition.lean` to `Mathlib/Combinatorics/Enumerative/Partition/Basic.lean` .

---

- [x] depends on: #31324

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by YaelDillies** [comment]
> Not sure why github didn't recognize this as a file move, but there is no diff in that file and the total diff is much smaller

This is because you're adding the module deprecation simultaneously. Could you move the module deprecation to a later PR?

**Comment by wwylele** [comment]
> This is because you're adding the module deprecation simultaneously. Could you move the module deprecation to a later PR?

Done! Thanks for the suggestion

File: Mathlib/Algebra/Order/Antidiag/Finsupp.lean [hunk 1]
```diff
@@ -102,6 +102,13 @@ theorem finsuppAntidiag_insert {a : ι} {s : Finset ι}
   simp_rw [mem_map, mem_attach, true_and, Subtype.exists, Embedding.coeFn_mk, exists_prop, and_comm,
     eq_comm]
 
+theorem finsuppAntidiag_mono {s t : Finset ι} (h : s ⊆ t) (n : μ) :
+    finsuppAntidiag s n ⊆ finsuppAntidiag t n := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Antidiag/Finsupp.lean:109]:
```suggestion
@[gcongr]
theorem finsuppAntidiag_mono {s t : Finset ι} (h : s ⊆ t) (n : μ) :
    finsuppAntidiag s n ⊆ finsuppAntidiag t n := by
```

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 2]
```diff
@@ -0,0 +1,230 @@
+/-
+Copyright (c) 2025 Weiyi Wang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Weiyi Wang
+-/
+import Mathlib.Combinatorics.Enumerative.Partition.Basic
+import Mathlib.RingTheory.PowerSeries.PiTopology
+
+/-!
+# Generating functions for partition functions
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]:
```suggestion
# Generating functions for partitions
```
is clear enough and less repetitive, I find

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 3]
```diff
@@ -0,0 +1,230 @@
...
+
+This file defines generating functions related to partitions. Given a character function $f(i, c)$
+of a part $i$ and the number of the part $c$, the related generating function is
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: I find this ambiguous. Do you mean
```suggestion
of a part $i$ and the label of the part $c$, the related generating function is
```
or
```suggestion
of a part $i$ and the number of occurrences of the part $c$, the related generating function is
```

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 4]
```diff
@@ -0,0 +1,230 @@
...
+/-- The infinite sum in the formula `Nat.Partition.hasProd_genFun` always converges. -/
+theorem summable_genFun_term (f : ℕ → ℕ → M) (i : ℕ) :
+    Summable fun j ↦ f (i + 1) (j + 1) • (X : M⟦X⟧) ^ ((i + 1) * (j + 1)) := by
+  rcases subsingleton_or_nontrivial M with h | h
+  · simpa [Subsingleton.eq_zero] using summable_zero
+  apply WithPiTopology.summable_of_tendsto_order_atTop_nhds_top
+  refine ENat.tendsto_nhds_top_iff_natCast_lt.mpr (fun n ↦ Filter.eventually_atTop.mpr ⟨n, ?_⟩)
+  intro m hm
+  rw [PowerSeries.smul_eq_C_mul]
+  refine (lt_of_lt_of_le (lt_add_of_nonneg_of_lt (by simp) ?_) (le_order_mul _ _))
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]:
```suggestion
  grw [PowerSeries.smul_eq_C_mul, \l le_order_mul]
  refine lt_add_of_nonneg_of_lt (by simp) ?_
```

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 5]
```diff
@@ -0,0 +1,230 @@
...
+  exact Nat.sub_one_lt_of_le (p.parts_pos h1) (le_of_mem_parts h1)
+
+private theorem aux_mapsTo_sub_one_parts {n : ℕ} (p : Partition n) :
+    Set.MapsTo (fun x ↦ x - 1) p.parts.toFinset (Finset.range n) := by
+  intro a ha
+  apply Finset.mem_of_subset (aux_map_sub_one_parts_subset p)
+  rw [Multiset.mem_toFinset, Multiset.mem_map]
+  exact ⟨a, by simpa using ha⟩
+
+private def aux_toFinsuppAntidiag {n : ℕ} (p : Partition n) : ℕ →₀ ℕ where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]:
```suggestion
private def toFinsuppAntidiagAux {n : ℕ} (p : Partition n) : ℕ →₀ ℕ where
```
to follow the naming convention (although it's not very important since it's private)

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 6]
```diff
@@ -0,0 +1,230 @@
...
+  toFun m := p.parts.count (m + 1) * (m + 1)
+  support := (p.parts.map (· - 1)).toFinset
+  mem_support_toFun m := by
+    suffices (∃ a ∈ p.parts, a - 1 = m) ↔ m + 1 ∈ p.parts by simpa
+    trans (∃ a ∈ p.parts, a = m + 1)
+    · refine ⟨fun ⟨a, h1, h2⟩ ↦ ⟨a, h1, ?_⟩, fun ⟨a, h1, h2⟩ ↦ ⟨a, h1, Nat.sub_eq_of_eq_add h2⟩⟩
+      exact Nat.eq_add_of_sub_eq (Nat.one_le_of_lt (p.parts_pos h1)) h2
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Does grind help here?

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 7]
```diff
@@ -0,0 +1,230 @@
...
+  unfold aux_toFinsuppAntidiag
+  intro p q h
+  rw [Finsupp.mk.injEq] at h
+  obtain ⟨hfinset, hcount⟩ := h
+  rw [Nat.Partition.ext_iff, Multiset.ext]
+  intro m
+  obtain rfl | h0 := Nat.eq_zero_or_pos m
+  · trans 0
+    · rw [Multiset.count_eq_zero]
+      exact fun h ↦ (lt_self_iff_false _).mp <| p.parts_pos h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]:
```suggestion
      exact fun h ↦ lt_asymm _ <| p.parts_pos h
```
Same below

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 8]
```diff
@@ -0,0 +1,230 @@
...
+
+theorem hasProd_genFun (f : ℕ → ℕ → M) :
+    HasProd (fun i ↦ (1 : M⟦X⟧) + ∑' j : ℕ, f (i + 1) (j + 1) • X ^ ((i + 1) * (j + 1)))
+    (genFun f) := by
+  rw [HasProd, WithPiTopology.tendsto_iff_coeff_tendsto]
+  refine fun d ↦ tendsto_atTop_of_eventually_const (fun s (hs : s ≥ Finset.range d) ↦ ?_)
+  rw [genFun, coeff_mk, coeff_prod]
+  refine (Finset.sum_of_injOn aux_toFinsuppAntidiag
+    (aux_toFinsuppAntidiag_injective d).injOn ?_ ?_ ?_).symm
+  · refine Set.MapsTo.mono_right (Set.mapsTo_range _ _) ((aux_range_toFinsuppAntidiag d).trans ?_)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]:
```suggestion
  · refine (Set.mapsTo_range _ _).mono_right ((aux_range_toFinsuppAntidiag d).trans ?_)
```

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 6 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: plain `grind` didn't work for me. Perhaps there is an advanced configuration but I am super familiar with it

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 7 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: It seems that `_` doesn't work and I had to write `lt_asymm (p.parts_pos h) (p.parts_pos h)`. Is it still better?

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Oh sorry, I meant `lt_irrefl`

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: I would start by replacing the last tactic call with `grind [p.parts_pos h1]` and work my way backwards

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 9]
```diff
@@ -0,0 +1,227 @@
...
+def genFun (f : ℕ → ℕ → M) : M⟦X⟧ :=
+  PowerSeries.mk fun n ↦ ∑ p : n.Partition, ∏ i ∈ p.parts.toFinset, f i (p.parts.count i)
+
+variable [TopologicalSpace M]
+
+/-- The infinite sum in the formula `Nat.Partition.hasProd_genFun` always converges. -/
+theorem summable_genFun_term (f : ℕ → ℕ → M) (i : ℕ) :
+    Summable fun j ↦ f (i + 1) (j + 1) • (X : M⟦X⟧) ^ ((i + 1) * (j + 1)) := by
+  rcases subsingleton_or_nontrivial M with h | h
+  · simpa [Subsingleton.eq_zero] using summable_zero
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Does this work?
```suggestion
  nontriviality M
```

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 10]
```diff
@@ -0,0 +1,227 @@
...
+  rw [order_X_pow]
+  norm_cast
+  grind
+
+variable [T2Space M]
+
+private theorem aux_injOn_sub_one_parts {n : ℕ} (p : Partition n) :
+    Set.InjOn (fun x ↦ x - 1) p.parts.toFinset := by
+  intro a ha b hb
+  exact tsub_inj_left (p.parts_pos (by simpa using ha)) (p.parts_pos (by simpa using hb))
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Could you deduce this from `Set.InjOn (\. - a) {x | a \le x}` + `Set.InjOn.mono`?

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 11]
```diff
@@ -0,0 +1,227 @@
...
+
+private theorem aux_map_sub_one_parts_subset {n : ℕ} (p : Partition n) :
+    (Multiset.map (fun x ↦ x - 1) p.parts).toFinset ⊆ Finset.range n := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: I was hoping this wouldn't be simp normal form, but it is because `Multiset.toFinset_map` isn't simp. If you make it simp, then you should be left with something like `\for x \in p.parts, x - 1 < n`, and then you can inline that lemma

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 12]
```diff
@@ -0,0 +1,227 @@
...
+  apply Finset.mem_of_subset (aux_map_sub_one_parts_subset p)
+  rw [Multiset.mem_toFinset, Multiset.mem_map]
+  exact ⟨a, by simpa using ha⟩
+
+private def toFinsuppAntidiag {n : ℕ} (p : Partition n) : ℕ →₀ ℕ where
+  toFun m := p.parts.count (m + 1) * (m + 1)
+  support := (p.parts.map (· - 1)).toFinset
+  mem_support_toFun m := by
+    suffices (∃ a ∈ p.parts, a - 1 = m) ↔ m + 1 ∈ p.parts by simpa
+    grind [→ Partition.parts_pos]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: I think this function is generally interesting. Could you make it public and move it to an earlier file?

Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: A weird thing about this function is its shifted index, where `p.toFinsuppAntidiag 0` corresponds to `1` in `p.parts`. I think this makes it less interesting as I imagine one would expect unshifted index for general use. I could also define one with unshifted index and compose it with index shifting, but it will make some proof unnecessarily longer.

I'll make this public as-is as suggested, and open for more ideas how this should be presented.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Oh, I see. Why do you need the shift?

Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: It's because the index in hasProd_genFun is shifted, and that's because PNat is hard to use with infinite sum / product (I attempted a version of that and it resulted in longer and messy proof)

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Ah then it's pretty clear to me that the public version of the function should not shifted, and that you should then compose with index shifting within your proof

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 9 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Tried this and also 
```
nontriviality M using Subsingleton.eq_zero, summable_zero
``` 
but neither worked

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 11 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Resolving as the lemma is now removed

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 10 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Resolving as the lemma is now removed

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: `nontriviality` really should be able to do these! Mind complaining on Zulip?

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 13]
```diff
@@ -0,0 +1,205 @@
...
+can be interpreted as assuming $f(i, 0) = 1$ and $f(0, c) = 0$ for $c \ne 0$. In theory we could
+respect the actual value of $f(0, c)$ and $f(i, 0)$, but it makes the otherwise finite sum and
+product potentially infinite.
+-/
+
+open PowerSeries
+open scoped PowerSeries.WithPiTopology
+
+namespace Nat.Partition
+variable {M : Type*} [CommSemiring M]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]:
```suggestion
variable {R : Type*} [CommSemiring R]
```
is a much less surprising variable name!

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 14]
```diff
@@ -0,0 +1,205 @@
...
+
+/-- Convert a `Partition n` to a member of `(Finset.Icc 1 n).finsuppAntidiag n`
+(see `Nat.Partition.range_toFinsuppAntidiag` for the proof).
+`p.toFinsuppAntidiag i` is defined as `i` times the number of occurrence of `i` in `p`. -/
+def toFinsuppAntidiag {n : ℕ} (p : Partition n) : ℕ →₀ ℕ where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Do you not think this belongs in `.Basic`? It doesn't have much to do with the generating function

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 15]
```diff
@@ -0,0 +1,205 @@
...
+  rw [Finsupp.mk.injEq] at h
+  obtain ⟨hfinset, hcount⟩ := h
+  rw [Nat.Partition.ext_iff, Multiset.ext]
+  intro m
+  obtain rfl | h0 := Nat.eq_zero_or_pos m
+  · grind [Multiset.count_eq_zero, → parts_pos]
+  · exact Nat.eq_of_mul_eq_mul_right h0 <| funext_iff.mp hcount m
+
+theorem range_toFinsuppAntidiag (n : ℕ) :
+    Set.range (toFinsuppAntidiag (n := n)) ⊆ (Finset.Icc 1 n).finsuppAntidiag n := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: I would prove this instead:
```suggestion
theorem toFinsuppAntidiag_mem_finsuppAntidiag {n : ℕ} {p : Partition n} :
    toFinsuppAntidiag (Finset.Icc 1 n).finsuppAntidiag n := by
```

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 16]
```diff
@@ -0,0 +1,205 @@
...
+    `#(Nat.Partition.odds n)`.
+(TODO: prove these)
+
+The definition of `Nat.Partition.genFun` ignores the value of $f(0, c)$ and $f(i, 0)$. The formula
+can be interpreted as assuming $f(i, 0) = 1$ and $f(0, c) = 0$ for $c \ne 0$. In theory we could
+respect the actual value of $f(0, c)$ and $f(i, 0)$, but it makes the otherwise finite sum and
+product potentially infinite.
+-/
+
+open PowerSeries
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]:
```suggestion
open Finset PowerSeries
```
maybe?

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 14 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: I can move the definition to Basic, but the characterizing lemma `toFinsuppAntidiag_mem_finsuppAntidiag` can't currently, because the import `Mathlib.Algebra.Order.Antidiag.Finsupp` somehow introduces `Field`, conflicting with `assert_not_exists Field` in the Basic file

In case you are interested in the import chain:
<details>
<code>
Declaration Field is not allowed to be imported by this file.
It is defined in Mathlib.Algebra.Field.Defs,
  which is imported by Mathlib.Algebra.Field.Basic,
  which is imported by Mathlib.Data.Rat.Cast.Defs,
  which is imported by Mathlib.Data.Rat.Cast.CharZero,
  which is imported by Mathlib.Data.Rat.BigOperators,
  which is imported by Mathlib.Data.Finsupp.Basic,
  which is imported by Mathlib.Algebra.Order.Antidiag.Finsupp,
  which is imported by this file.
</code>
</details>

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 9 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Complaint filed [#mathlib4 > &#96;nontriviality&#96; fails to prove goal](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60nontriviality.60.20fails.20to.20prove.20goal/with/553984244)

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Oh, I was in the process of fixing that

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Okay, done in #31324

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 9 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: Following the suggestion I created #31635. I don't think it is necessarily blocking this as it is only a two-line change

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean [hunk 17]
```diff
@@ -117,6 +122,38 @@ def ofSymShapeEquiv (μ : Partition n) (e : σ ≃ τ) :
   left_inv := by intro x; simp
   right_inv := by intro x; simp
 
+/-- Convert a `Partition n` to a member of `(Finset.Icc 1 n).finsuppAntidiag n`
+(see `Nat.Partition.toFinsuppAntidiag_mem_finsuppAntidiag` for the proof).
+`p.toFinsuppAntidiag i` is defined as `i` times the number of occurrence of `i` in `p`. -/
+def toFinsuppAntidiag {n : ℕ} (p : Partition n) : ℕ →₀ ℕ where
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/Basic.lean:130]: Can't we use [`Multiset.toFinsupp`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finsupp/Multiset.html#Multiset.toFinsupp) for this?

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 18]
```diff
@@ -0,0 +1,168 @@
...
+
+namespace Nat.Partition
+variable {R : Type*} [CommSemiring R]
+
+/-- Generating function associated with character $f(i, c)$ for partition functions, where $i$ is a
+part of the partition, and $c$ is the count of that part in the partition. The character function is
+multiplied within one `n.Partition`, and summed among all `n.Partition` for a fixed `n`. This way,
+each `n` is assigned a value, which we use as the coefficients of the power series. -/
+def genFun (f : ℕ → ℕ → R) : R⟦X⟧ :=
+  PowerSeries.mk fun n ↦ ∑ p : n.Partition, ∏ i ∈ p.parts.toFinset, f i (p.parts.count i)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: I wonder if it's easier to express this using a Finsupp.prod, combined with Multiset.toFinsupp?

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 19]
```diff
@@ -0,0 +1,168 @@
...
+    rw [tsum_eq_single (Multiset.count i p.parts - 1) ?_]
+    · rw [mul_comm]
+      simp [Nat.sub_add_cancel (Multiset.one_le_count_iff_mem.mpr hi)]
+    intro b hb
+    suffices Multiset.count i p.parts * i ≠ i * (b + 1) by simp [this]
+    rw [mul_comm i, (mul_left_inj' (Nat.ne_zero_of_lt (p.parts_pos hi))).ne]
+    grind
+
+theorem hasProd_genFun (f : ℕ → ℕ → R) :
+    HasProd (fun i ↦ 1 + ∑' j, f (i + 1) (j + 1) • X ^ ((i + 1) * (j + 1))) (genFun f) := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean:157]: Let's also add the `Multipliable` and `tprod` versions of this.

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 20]
```diff
@@ -0,0 +1,168 @@
...
+open Finset PowerSeries
+open scoped PowerSeries.WithPiTopology
+
+namespace Nat.Partition
+variable {R : Type*} [CommSemiring R]
+
+/-- Generating function associated with character $f(i, c)$ for partition functions, where $i$ is a
+part of the partition, and $c$ is the count of that part in the partition. The character function is
+multiplied within one `n.Partition`, and summed among all `n.Partition` for a fixed `n`. This way,
+each `n` is assigned a value, which we use as the coefficients of the power series. -/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]:
```suggestion
/-- Generating function associated with character $f(i, c)$ for partition functions, where $i$ is a
part of the partition, and $c$ is the count of that part in the partition. The character function is
multiplied within one `n.Partition`, and summed among all `n.Partition` for a fixed `n`. This way,
each `n` is assigned a value, which we use as the coefficients of the power series. 

See the module docstring of `Combinatorics.Enumerative.Partition.GenFun` for more details. -/
```

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean (hunk 17 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Basic.lean:130]: They are different. For example, let's say `p.parts = {2, 2, 2}`, `Multiset.toFinsupp` gives `f(2) = 3`, while `toFinsuppAntidiag` gives `f(2) = 2 * 3  = 6`. This is to ensure the sum of all values from `toFinsuppAntidiag` is `n`.

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean (hunk 18 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: The prod part turns out defeq to `p.parts.toFinsupp.prod fun i c ↦ f i c`. Let me change to it after checking there is no weird defeq in proofs

Comment (b-mehta) [reply Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean]: That should be ` p.parts.toFinsupp.prod f`, unless there's some subtyping I'm missing

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean [hunk 21]
```diff
@@ -117,6 +122,38 @@ def ofSymShapeEquiv (μ : Partition n) (e : σ ≃ τ) :
...
+  toFun m := p.parts.count m * m
+  support := p.parts.toFinset
+  mem_support_toFun m := by
+    suffices m ∈ p.parts → m ≠ 0 by simpa
+    grind [→ parts_pos]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/Basic.lean]: I think it'd be reasonable to mark `parts_pos` as `grind →`

Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Basic.lean]: How do I actually do that? `parts_pos` is a field of Partition. Trying adding `@[grind →]` there gives me `Invalid attribute: Attributes cannot be added to fields`
Should I create a standalone theorem `parts_pos` for this, and rename the field to `parts_pos'`?

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean [hunk 22]
```diff
@@ -60,6 +61,10 @@ deriving DecidableEq
 
 namespace Partition
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/Basic.lean:62]:
```suggestion
attribute [grind →] parts_pos

namespace Partition
```
You can add the attribute like this

File: Mathlib/Combinatorics/Enumerative/Partition/Basic.lean (hunk 21 above)
Comment (wwylele) [reply Mathlib/Combinatorics/Enumerative/Partition/Basic.lean]: Fixed. Thanks for the suggestion!

File: Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean [hunk 23]
```diff
@@ -0,0 +1,178 @@
...
+variable {R : Type*} [CommSemiring R]
+
+/-- Generating function associated with character $f(i, c)$ for partition functions, where $i$ is a
+part of the partition, and $c$ is the count of that part in the partition. The character function is
+multiplied within one `n.Partition`, and summed among all `n.Partition` for a fixed `n`. This way,
+each `n` is assigned a value, which we use as the coefficients of the power series.
+
+See the module docstring of `Combinatorics.Enumerative.Partition.GenFun` for more details. -/
+def genFun (f : ℕ → ℕ → R) : R⟦X⟧ :=
+  PowerSeries.mk fun n ↦ ∑ p : n.Partition, p.parts.toFinsupp.prod f
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Enumerative/Partition/GenFun.lean:49]:
```suggestion
def genFun (f : ℕ → ℕ → R) : R⟦X⟧ :=
  PowerSeries.mk fun n ↦ ∑ p : n.Partition, p.parts.toFinsupp.prod f
  
lemma coeff_genFun : (genFun f).coeff n = ∑ p : n.Partition, p.parts.toFinsupp.prod f := PowerSeries.coeff_mk _ _
```
(I haven't tested this exactly works, but let's add a theorem of this form, and make it simp)
